US04719298
A solution of 200 g (2.15 moles) of 2-methyl-pyridine and 14 g of dimethylformamide in 750 ml chloroform was heated at reflux while 300 g (1.29 mole) of trichloroisocyanuric acid (min. 90% available chlorine) were added thereto in portions without heating over 50 minutes as the reaction mixture remained under reflux by itself. The mixture was stirred for another 2 hours and was cooled and vacuum filtered. The filtrate was washed with 100 ml of 5% sodium hydroxide and the chloroform phase was dried over MgSO4, and filtered. 100 g (2.74 moles) of dry hydrogen chloride were added to the filtrate which was evaporated to dryness under vacuum. The residue was added to 250 ml of dry acetone and the mixture was stirred and vacuum filtered. The precipitate was washed with a little acetone and dried to obtain 185 g of 2-chloromethyl-pyridine hydrochloride. The acetone solution was cooled in the refrigerator to obtain another 42 g product for a total yield of 227 g (64.4%) melting at 120° to 122° C.

reactant | 2-methyl-pyridine | 2.15 moles, 200 g | CC1=NC=CC=C1 | C6H7N
reactant | dimethylformamide | 14 g | CN(C=O)C | C3H7NO
reactant | trichloroisocyanuric acid | 1.29 mole, 300 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | hydrogen chloride | 2.74 moles, 100 g | Cl | ClH
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-pyridine hydrochloride | 185 g | Cl.ClCC1=NC=CC=C1 | InChI=1S/C6H6ClN.ClH/c7-5-6-3-1-2-4-8-6;/h1-4H,5H2;1H
